US05543409
25 ml of 30% hydrogen bromide-acetic acid and 1 ml of dimethyl sulfoxide were added to 20 ml of a suspension containing 3.13 g of 2-(butyrylamino)methyl-5-[4,5-di-hydropyridazin-3(2H)-on-6-yl]indane suspended in acetic acid. The mixture was stirred at room temperature for 3 hours. Diisopropyl ether was added to the mixture, and crystals precipitated were collected by filtration, washed with water, dried and then recrystallized from methanol to obtain 2.80 g of 2-(butyrylamino)methyl-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | hydrogen bromide acetic acid | 25 ml | Br.C(C)(=O)O
reactant | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
reactant | 2-(butyrylamino)methyl-5-[4,5-di-hydropyridazin-3(2H)-on-6-yl]indane | 3.13 g | C(CCC)(=O)NCC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C18H23N3O2
reactant | Diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(butyrylamino)methyl-5-[pyridazin-3(2H)-on-6-yl]indane | 2.80 g | C(CCC)(=O)NCC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C18H21N3O2
